datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[C:6](=[C:7]([C:8]([C:9]([H:14])([H:15])[H:16])[C:10]([H:17])([H:18])[H:19])[H:13])([H:11])[H:12]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:8]([C:7](=[C:6]([H:11])[H:12])[H:13])([C:9]([H:14])([H:15])[H:16])[C:10]([H:17])([H:18])[H:19],168.071
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])[H:7])[H:6].[C:12]([H:13])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])([H:8])[C:12]([H:13])([H:14])[H:15])[H:7])[H:6],15.8992
[C:0]([C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])([H:9])[H:10])([H:7])[H:8])([H:5])[H:6].[C:14](=[O:15])[H:16]>>[C-:14]#[O+:15].[C:0]([C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])([H:9])[H:10])([H:7])[H:8])([H:5])([H:6])[H:16],0.0
[C:0](=[C:1]([C:2]([S:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[S:13][H:20])([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([S:3][H:9])[H:8])[H:6])([H:4])[H:5].[H:7][C:11]([C:10]([H:14])([H:15])[H:16])([C:12]([H:17])([H:18])[H:19])[S:13][H:20],-0.8368
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[H:6].[C:14]([C:15]([H:18])([H:19])[H:20])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([C:5]([H:11])([H:12])[H:13])([H:10])[C:14]([C:15]([H:18])([H:19])[H:20])([H:16])[H:17])[H:6],13.347
[O:0]=[S:1][O:2][H:3].[O:4][S:5]>>[H:3][O:4][S:5].[O:0]=[S:1]=[O:2],0.0
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9](=[C:10][C:11](=[S:12])[H:15])([H:13])[H:14]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][C:10](=[C:9]([H:13])[H:14])[C:11](=[S:12])[H:15],64.4336
[O:0][O:1][C:2]([C:3]([C:4]([C:5]([C:6]([O:7][O:8][H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10]>>[O:0]([O:1][C:2]([C:3]([C:4]([C:5]([C:6]([O:7][O:8][H:19])([H:17])[H:18])([H:15])[H:16])[H:14])([H:11])[H:12])([H:9])[H:10])[H:13],76.1488
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[H:9]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][H:9],10.8784
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])[H:8])[H:7].[C:13]([H:14])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])([C:5]#[C:6][H:12])[C:13]([H:14])([H:15])[H:16])[H:8])[H:7],19.4556
[C:0](=[C:1]([C:2]([C:3](=[C:4]([C:5]([C:6]([C:7](=[C:8]([H:20])[H:21])[H:19])=[C:9]([C:10]([H:23])([H:24])[H:25])[H:22])([H:17])[H:18])[H:16])[H:15])[H:14])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([H:14])[C:3]([H:15])=[C:4]([H:16])[C:5]([H:17])([H:18])[C:6]([C:7](=[C:8]([H:20])[H:21])[H:19])[C:9]1([C:10]([H:23])([H:24])[H:25])[H:22])[H:13])([H:11])[H:12],115.688
[C:0]([C:1](=[C:2]([H:9])[H:10])[C:3](=[C:4]([H:11])[H:12])[C:5](=[C:6]([H:14])[H:15])[H:13])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1](=[C:2]([H:9])[H:10])[C:3](=[C:4]([H:11])[H:12])[C:5]([H:13])[C:6]1([H:14])[H:15],88.7008
[C:0]([C:1]1[C:2]([H:7])([H:8])[C:3]1([H:9])[H:10])([H:4])([H:5])[H:6]>>[C:0]([C:1]1([H:4])[C:2]([H:7])([H:8])[C:3]1([H:9])[H:10])([H:5])[H:6],169.034
[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7].[C:14](=[C:15]([C:16]([C:17]([H:23])([H:24])[H:25])[C:18](=[C:19]([H:27])[H:28])[H:26])[H:22])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[C:16]([C:15](=[C:14]([H:20])[H:21])[H:22])([C:17]([H:23])([H:24])[H:25])[C:18](=[C:19]([H:27])[H:28])[H:26])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7],49.6222
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5](=[C:6]([C:7]([C:8]([H:18])([H:19])[H:20])[C:9](=[C:10]([H:22])[H:23])[H:21])[H:17])[H:16])([H:14])[H:15])[H:13])[H:12])[H:11]>>[C:0](#[C:1][C:2]1([H:12])[C:3]([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])=[C:6]([H:17])[C:7]1([C:8]([H:18])([H:19])[H:20])[C:9](=[C:10]([H:22])[H:23])[H:21])[H:11],133.511
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[Cl:11]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:4])[H:5].[H:3][Cl:11],0.748302
[C:0]([C:1](=[C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])[H:9])[H:8])([H:5])([H:6])[H:7].[C:15]([H:16])([H:17])[H:18]>>[C:0]([C:1](=[C:2]([C:3]([C:4]([H:13])[H:14])([H:10])[H:11])[H:9])[H:8])([H:5])([H:6])[H:7].[H:12][C:15]([H:16])([H:17])[H:18],29.932336
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12](=[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[H:19])[H:18])([H:16])[H:17]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])([C:3]([H:9])([H:10])[H:11])[C:14]([C:13](=[C:12]([H:16])[H:17])[H:18])([C:15]([H:20])([H:21])[H:22])[H:19])([H:4])[H:5],58.9526
[C:0]([O:1][O:2][O:3][H:7])([H:4])([H:5])[H:6].[H:8]>>[C:0]([O:1][O:2][H:8])([H:4])([H:5])[H:6].[O:3][H:7],36.5109
[C:0](=[C:1][C:2](=[S:3])[H:6])([H:4])[H:5].[H:7][H:8]>>[C:0](=[C:1]([C:2](=[S:3])[H:6])[H:8])([H:4])[H:5].[H:7],76.9856
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[O:5][H:15])[H:8])([H:6])[H:7].[C:16]([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[O:5][C:16]([H:17])([H:18])[H:19])[H:8])([H:6])[H:7].[H:15],187.173
